### PR TITLE
Aut (Fin n) ≃ Lehmer n

### LINKED ISSUE #9: Write (or copy) the equivalence Lehmer n ≃ (Fin n ≃ Fin n)

### LINKED ISSUE #56: Prove Lehmer is a set

### PR DESCRIPTION
**Pull request by inexxt**
Closes #9 
Closes #56

### CODE REVIEW

File: Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda [hunk 1]
```diff
@@ -0,0 +1,172 @@
...
+... | inr tt with== bx = (inr tt) , –> lemma-r (e , bx)
+
+aut-⊔-≃ : {A : Type₀} -> is-equiv (aut-⊔ {A})
+aut-⊔-≃ = is-eq aut-⊔ {!   !} {!   !} {!   !}
+
+Fin1≃Unit : Fin 1 ≃ Unit
+Fin1≃Unit = ⊔₁-Empty ⊤ ∘e Coprod-≃-r Fin-equiv-Empty ∘e Fin-equiv-Coprod
+
+Fin1≃isContr : is-contr (Fin 1 ≃ Fin 1)
+Fin1≃isContr = ≃-contr (equiv-preserves-level (Fin1≃Unit ⁻¹)) (equiv-preserves-level (Fin1≃Unit ⁻¹))
```
Comment (vikraman) [inline Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda:162]: These lemmas are in the library.

File: Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda [hunk 2]
```diff
@@ -0,0 +1,172 @@
...
+lemma-r : {A : Type₀} -> Σ ((A ⊔ Unit) ≃ (A ⊔ Unit)) (λ e -> –> e (inr tt) == (inr tt)) ≃ (A ≃ A)
+lemma-r = TODO
+
+aut-⊔ : {A : Type₀} -> ((A ⊔ Unit) ≃ (A ⊔ Unit)) -> ((A ⊔ Unit) × (A ≃ A))
+aut-⊔ e with inspect (–> e (inr tt))
+... | inl x with== bx = (inl x) , {!   !}
+... | inr tt with== bx = (inr tt) , –> lemma-r (e , bx)
+
+aut-⊔-≃ : {A : Type₀} -> is-equiv (aut-⊔ {A})
+aut-⊔-≃ = is-eq aut-⊔ {!   !} {!   !} {!   !}
```
Comment (vikraman) [inline Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda:156]: I'm not following this.

File: Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda [hunk 3]
```diff
@@ -0,0 +1,172 @@
...
+    g-f x = pair= {!   !} {!   !}
+
+-- symmetric version of the lemma above
+lemma-r : {A : Type₀} -> Σ ((A ⊔ Unit) ≃ (A ⊔ Unit)) (λ e -> –> e (inr tt) == (inr tt)) ≃ (A ≃ A)
+lemma-r = TODO
+
+aut-⊔ : {A : Type₀} -> ((A ⊔ Unit) ≃ (A ⊔ Unit)) -> ((A ⊔ Unit) × (A ≃ A))
+aut-⊔ e with inspect (–> e (inr tt))
+... | inl x with== bx = (inl x) , {!   !}
+... | inr tt with== bx = (inr tt) , –> lemma-r (e , bx)
```
Comment (vikraman) [inline Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda:153]: Perhaps it's better to write this with A and B instead of just A.

File: Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda [hunk 4]
```diff
@@ -0,0 +1,172 @@
...
+    ... | inl tt with== ap' = bottom-lemma
+    ... | inr a' with== ap' = ! (–> (inr=inr-equiv a a') (! ((ap (–> e) (! bp)) ∙ <–-inv-r e (inr a)) ∙ ap'))
+
+    g-f : _
+    g-f a with inspect (–> e (inr a)) 
+    ... | inl tt with== bp with (inl≠inr _ _ (! ((! (<–-inv-l e _)) ∙ (ap (<– e) bp) ∙ lemma←)))
+    g-f a | inl tt with== bp | ()
+    g-f a | inr b with== bp with inspect (<– e (inr b))
+    ... | inl tt with== ap' = bottom-lemma
+    ... | inr a' with== ap' = ! (–> (inr=inr-equiv a a') (! (ap (<– e) (! bp) ∙ (<–-inv-l e (inr a))) ∙ ap'))
```
Comment (vikraman) [inline Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda:134]: I'd prefer to do these by proving eta-rule like lemmas instead of using inspect.

File: Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda [hunk 5]
```diff
@@ -0,0 +1,172 @@
...
+LehmerInd {n} = equiv f g f-g g-f
+    where
+    f : _
+    f ((x , p) , l) = CanS l (≤-down2 ((–> <N≃< p)))
+    g : _
+    g (CanS l {r} p) = (r , <– <N≃< (≤→< p)) , l
+    f-g : _
+    f-g (CanS l {r} p) = ap (CanS l) (≤-has-all-paths _ _)
+    g-f : _
+    g-f ((x , p) , l) = pair= (pair= idp (<-has-all-paths _ _)) (↓-cst-in idp)
```
Comment (vikraman) [inline Pi+/Coxeter/Parametrized/FinLehmerEquiv.agda:41]: Hm, this would be definitional if Lehmer was defined just by equations like factorial, instead of a type family. Do we rely on the type family definition elsewhere?

**Review by vikraman — CHANGES_REQUESTED** [review]

**Review by vikraman — APPROVED** [review]
